* NGSPICE file created from inverter.ext - technology: sky130A

* Black-box entry subcircuit for sky130_ef_sc_hd__decap_12 abstract view
.subckt sky130_ef_sc_hd__decap_12 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_1 abstract view
.subckt sky130_fd_sc_hd__fill_1 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_2 abstract view
.subckt sky130_fd_sc_hd__fill_2 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_6 abstract view
.subckt sky130_fd_sc_hd__decap_6 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_8 abstract view
.subckt sky130_fd_sc_hd__decap_8 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_3 abstract view
.subckt sky130_fd_sc_hd__decap_3 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_4 abstract view
.subckt sky130_fd_sc_hd__decap_4 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_1 abstract view
.subckt sky130_fd_sc_hd__clkbuf_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__tapvpwrvgnd_1 abstract view
.subckt sky130_fd_sc_hd__tapvpwrvgnd_1 VGND VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__inv_2 abstract view
.subckt sky130_fd_sc_hd__inv_2 A VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__buf_2 abstract view
.subckt sky130_fd_sc_hd__buf_2 A VGND VNB VPB VPWR X
.ends

.subckt inverter VGND VPWR in out
XFILLER_0_57 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_3_57 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_69 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_3_47 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_3_69 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_9_79 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_9_57 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_3_3 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_3_15 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_9_69 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_0_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_6_15 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_3_27 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_9_15 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_6_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_3_39 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_9_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_1_3 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_29 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_0 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_1_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XPHY_1 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_29 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_9_29 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_2 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_7_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_4_41 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_53 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_4 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_65 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_1_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_5 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XPHY_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_7_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_8_3 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
Xinput1 in VGND VGND VPWR VPWR _0_/A sky130_fd_sc_hd__clkbuf_1
XFILLER_1_57 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_1_69 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_8 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_7_57 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_1_15 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_7_69 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_4_15 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_1_27 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_6_3 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_7_15 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_4_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_1_39 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_7_27 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_7_39 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_4_29 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XTAP_30 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_4_3 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_5_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XTAP_31 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_20 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_2_41 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XTAP_21 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_2_53 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_8_41 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XTAP_22 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_2_65 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
X_0_ _0_/A VGND VGND VPWR VPWR _0_/Y sky130_fd_sc_hd__inv_2
XFILLER_2_3 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_8_53 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XTAP_23 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_2_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_8_65 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_5_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XTAP_24 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_8_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XTAP_25 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_5_57 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_10 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_26 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_5_69 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XTAP_27 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_2_15 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_5_15 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_28 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_2_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_8_15 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_5_27 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_9_3 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XTAP_29 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_13 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_8_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_5_39 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_2_29 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_14 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_9 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_3_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_8_29 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_41 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
Xoutput2 _0_/Y VGND VGND VPWR VPWR out sky130_fd_sc_hd__buf_2
XFILLER_7_3 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_16 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_53 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_17 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_41 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_21 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_9_41 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_53 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_9_75 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_9_53 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_19 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_65 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_3_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_5_3 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_6_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
.ends

